US05635527
Tetrahydrofuran (32 ml) was added to ethyl 5-amidinofuro[2,3-b]pyridine-2-carboxylate hydrochloride (2.05 g, 5.10 mmol), and benzyl chloroformate (1.09 ml, 7.65 mmol) was dropwise added under ice-cooling while maintaining the mixture at pH 10-12 with a 1N aqueous sodium hydroxide solution. Thereafter, the mixture was stirred under ice-cooling for 30 minutes and at room temperature for 1.5 hours. Tetrahydrofuran (20 ml) and a 1N aqueous sodium hydroxide solution (20 ml) were added to this reaction mixture and the mixture was stirred at room temperature for 1.5 hours. The mixture was adjusted to pH 4-5 with 1N hydrochloric acid and low boiling matters were distilled away under reduced pressure. The residue was purified by reversed-phase column (Chromatorex-ODS DM1020T, Fuji Silysia Chemical) chromatography. (water-acetonitrile) to give 695 mg of 5-(benzyloxycarbonylamidino)furo[2,3-b]pyridine-2-carboxylic acid as a yellow solid (35%).

reactant | ethyl 5-amidinofuro[2,3-b]pyridine-2-carboxylate hydrochloride | 5.10 mmol, 2.05 g | Cl.C(N)(=N)C=1C=C2C(=NC1)OC(=C2)C(=O)OCC
reactant | benzyl chloroformate | 7.65 mmol, 1.09 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | Tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
product | 5-(benzyloxycarbonylamidino)furo[2,3-b]pyridine-2-carboxylic acid | 695 mg, 35% | C(C1=CC=CC=C1)OC(=O)NC(=N)C=1C=C2C(=NC1)OC(=C2)C(=O)O | C17H13N3O5
